US05514651
n-Octyl bromide (0.102 mol) is added to a solution of 4-(4-hydroxyphenyl)benzoic acid (0.102 mol) and 2.5N sodium hydroxide (0.102 mol) and the mixture stirred at 70° C. for a period of 18 hours. The reaction mixture is allowed to cool and then acidified to pH 3 and partitioned between ethyl acetate and water. The organic phase is washed with water and brine and the solvent then removed to obtain the 4'-n-octyloxy 1,1'-biphenyl!-4-ylcarboxylic acid, C21H23O3, M.W. 326.4.

reactant | n-Octyl bromide | 0.102 mol | C(CCCCCCC)Br | C8H17Br
reactant | 4-(4-hydroxyphenyl)benzoic acid | 0.102 mol | OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | sodium hydroxide | 0.102 mol, 2.5N | [OH-].[Na+]
product | 4'-n-octyloxy 1,1'-biphenyl | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=CC=C1 | C20H26O
